US03937824
Preparation of O-[2-(N-Cyclopropylcarbamoyloxy)-2-ethoxyiminoethyl] 2-Methylphenyl(4-bromophenyl)thionophosphinate
1-Chloro-2-(N-cyclopropylcarbamoyloxy)-2-ethoxyiminoethane (11 grams; 0.05 mole), methyl ethyl ketone (80 ml), potassium 2-methylphenyl(4-bromophenyl)thionophosphinate (17 grams; 0.05 mole) and a few crystals of potassium iodide are charged into a glass reaction flask equipped with a mechanical stirrer, thermometer and reflux condenser. The reaction mixture is then heated at reflux for a period of about 8 hours. After this time the reaction mixture is cooled to room temperature and is filtered to remove inorganic salts. The salts are washed with acetone and the washings combined with the filtrate. The resulting solution is stripped of solvents in a rotary evaporator. The remaining residue is dissolved in ether and the ether solution is washed with water and dried over anhydrous magnesium sulfate. The dried solution is filtered and stripped of ether to yield the desired product O-[2-(N-cyclopropylcarbamoyloxy)-2-ethoxyiminoethyl] 2-methylphenyl(4-bromophenyl)thionophosphinate.

reactant | 1-Chloro-2-(N-cyclopropylcarbamoyloxy)-2-ethoxyiminoethane | 0.05 mole, 11 grams | ClCC(=NOCC)OC(NC1CC1)=O | C8H13ClN2O3
reactant | potassium 2-methylphenyl(4-bromophenyl)thionophosphinate | 0.05 mole, 17 grams | CC1=C(C=CC=C1)S(=P([O-])=O)C1=CC=C(C=C1)Br.[K+]
reactant | potassium iodide | [I-].[K+]
solvent | methyl ethyl ketone | 80 ml | C(C)C(=O)C | C4H8O
product | O-[2-(N-cyclopropylcarbamoyloxy)-2-ethoxyiminoethyl] 2-methylphenyl(4-bromophenyl)thionophosphinate | CC1=C(C=CC=C1)S(=P(OCC(=NOCC)OC(NC1CC1)=O)=O)C1=CC=C(C=C1)Br | C21H24BrN2O5PS
